US04248620
In this example 0.02 mol of 1-(2-fluorophenyl)-3-methyl-5-(1,2,3,3,3-pentachloropropyl)imino-1,3-diazolidine-2,4-dione is dissolved in 20 ml of acetonitrile and then 0.02 of mol of 2-fluoroaniline is added. After about 10 minutes, triethylamine is added to neutralize the byproduct HCl produced by the reaction. The mixture is stirred for five hours and 20 ml of ethyl ether is then added. The mixture is filtered and the filtrate evaporated under high vacuum affording 1-(2-fluorophenyl)-3-methyl-5-(1-2'-fluorophenylamino-2,3,3,3-tetrachloropropyl)imino-1,3-diazolidine-2,4-dione.

reactant | 1-(2-fluorophenyl)-3-methyl-5-(1,2,3,3,3-pentachloropropyl)imino-1,3-diazolidine-2,4-dione | 0.02 mol | FC1=C(C=CC=C1)N1C(N(C(C1=NC(C(C(Cl)(Cl)Cl)Cl)Cl)=O)C)=O | C13H9Cl5FN3O2
reactant | 2-fluoroaniline | FC1=C(N)C=CC=C1 | C6H6FN
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
product | 1-(2-fluorophenyl)-3-methyl-5-(1-2'-fluorophenylamino-2,3,3,3-tetrachloropropyl)imino-1,3-diazolidine-2,4-dione | FC1=C(C=CC=C1)N1C(N(C(C1=NC(C(C(Cl)(Cl)Cl)Cl)NC1=C(C=CC=C1)F)=O)C)=O | C19H14Cl4F2N4O2
